US04113869
a. Preparation of 7-(2,3-Epoxypropyloxy)-2-methyl-4-phenyl-1,2,3,4-tetrahydroisoquinoline (16)
Sodium hydride (0.72g) was added to a solution of 7-hydroxy-2-methyl-4-phenyl-1,2,3,4-tetrahydroisoquinoline (2.33g) in dry tetrahydrofuran (75 ml). Epibromohydrin (4.11 g) was added and the solution refluxed for 2 hr. until thin layer chromatography (alumina, chloroform-ether 1:5) showed the absence of starting phenol. Water (25ml) was added and the mixture extracted with ether. The combined ether layers were dried (MgSO4) and the solvent removed under reduced pressure. The oil was taken up in xylene (50 ml) and evaporated to dryness to give the title compound in quantitative yield. τ (CDCl3) 7.68 (3H,s), 7.55-7.0 (3H,m), 6.95-6.6 (2H,m), 6.4 (2H,s), 6.2-5.65 (3H,m), 3.5-3.1 (3H,m), 2.85 (5H,s).

reactant | Sodium hydride | 0.72g | [H-].[Na+]
reactant | 7-hydroxy-2-methyl-4-phenyl-1,2,3,4-tetrahydroisoquinoline | 2.33g | OC1=CC=C2C(CN(CC2=C1)C)C1=CC=CC=C1 | C16H17NO
reactant | Epibromohydrin | 4.11 g | C(Br)C1CO1 | C3H5BrO
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | Water | 25ml | O | H2O
product | 7-(2,3-Epoxypropyloxy)-2-methyl-4-phenyl-1,2,3,4-tetrahydroisoquinoline | quantitative yield | O1C(COC2=CC=C3C(CN(CC3=C2)C)C2=CC=CC=C2)C1 | C19H21NO2
